US03993697
368 gm of cyclododecanol (2.0 mols), 250 gm of anhydrous sodium sulfate and 66,0 gm of paraformaldehyde were dispersed in 600 ml of xylene and the mixture was cooled to a temperature of -20° C. While the mixture was stirred energetically, as strong a flow as possible of hydrogen chlorine was introduced, the speed at which it was introduced being controlled such that the reaction temperature did not exceed +5° C. After approximately one hour the speed of introduction was decreased and subsequent reaction was effected while hydrogen chloride was bubbled through gently. Water-jet vacuum was then applied gradually during energetic stirring in order to remove surplus hydrogen chloride. When the highest water-jet vacuum had been achieved, the mixture was heated to 30° C over a period of one hour, and subsequent stirring was effected at this temperature for a further hour. The sodium sulfate was then drawn off by vacuum filtration and the solution of the chloromethoxy-cyclododecane thus obtained could be used for the next reaction without special processing.

reactant | cyclododecanol | 2.0 mols, 368 gm | C1(CCCCCCCCCCC1)O | C12H24O
reactant | sodium sulfate | 250 gm | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | paraformaldehyde | 66,0 gm | C=O | CH2O
reactant | hydrogen chlorine | [H][H].ClCl
reactant | hydrogen chloride | Cl | ClH
solvent | xylene | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
product | chloromethoxy-cyclododecane | ClCOC1CCCCCCCCCCC1 | C13H25ClO
